US07119122B2
2-Chloro-6-methylnicotinonitrile (0.25 g, 1.6 mmol), 3-hydroxy-2-methoxybenzaldehyde (0.25 g, 1.6 mmol) and potassium fluoride (0.29 g, 4.9 mmol) were heated with stirring in dry DMF (4 mL) at 120° C. for 5 h. The reaction mixture was cooled, poured into 1N sodium hydroxide solution and extracted with ethyl acetate. The ethyl acetate layer was separated, washed with 1N sodium hydroxide solution (2×), water (3×), brine (1×), and dried over MgSO4. After filtration, the solvent was removed in vacuo to yield 2-(3-formyl-2-methoxy-phenoxy)-6-methyl-nicotinonitrile (0.30 g, 68%) as a yellow solid.

reactant | 2-Chloro-6-methylnicotinonitrile | 1.6 mmol, 0.25 g | ClC1=C(C#N)C=CC(=N1)C | C7H5ClN2
reactant | 3-hydroxy-2-methoxybenzaldehyde | 1.6 mmol, 0.25 g | OC=1C(=C(C=O)C=CC1)OC | C8H8O3
reactant | potassium fluoride | 4.9 mmol, 0.29 g | [F-].[K+]
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 2-(3-formyl-2-methoxy-phenoxy)-6-methyl-nicotinonitrile | 0.30 g, 68% | C(=O)C=1C(=C(OC2=C(C#N)C=CC(=N2)C)C=CC1)OC | C15H12N2O3
